US06790977B2
The preparation was carried out according to the process of Example 2a except that 3,4-Dimethoxybenzonitrile was used as the starting material instead of 3-methoxy-4-hydroxybenzonitrile, and 2-fold of lithium bromide (162.6 g, 1.88 mole) were added to form the reaction mixture. 3,4-Dihydroxybenzonitrile was obtained as a white solid with a yield of 65% and a purity of greater than 98% as indicated by HPLC analysis.

reactant | 3,4-Dimethoxybenzonitrile | COC=1C=C(C#N)C=CC1OC | C9H9NO2
reactant | 3-methoxy-4-hydroxybenzonitrile | COC=1C=C(C#N)C=CC1O | C8H7NO2
reactant | lithium bromide | 1.88 mole, 162.6 g | [Br-].[Li+]
product | 3,4-Dihydroxybenzonitrile | yield of 65% | OC=1C=C(C#N)C=CC1O | C7H5NO2
